US04952598
(a) N-Methyl-N-phenyl-2-methoxy-0-acetylmandelamide
22.4 g (0.1 mol) of 2-methoxy-0-acetylmandelic acid were heated under reflux with 100 ml of toluene and 28.8 ml (0.4 mol) of thionyl chloride in the presence of 2 drops of DMF for 2.5 hours. The excess thionyl chloride and the solvent were removed by distillation in vacuo. The residue was dissolved in 25 ml of methylene chloride. To this solution of the acid chloride were added dropwise 10.7 g of N-methylaniline (0.1 mol) and 13.8 ml (0.1 mol) of triethylamine in 100 ml of methylene chloride within 30 minutes. The reaction mixture is left to stand overnight and then 100 ml of water are added. The phases are separated, and the organic phase is washed successively with 50 ml each of 1 N HCl, saturated NaHCO3 solution and water. After drying with anhydrous magnesium sulfate, the solvent is evaporated in vacuo, and the residue is triturated with diisopropyl ether and is filtered off with suction. 30.1 g of crystals of melting point 84°-86° C. are obtained. H NMR (CDCl3): δ=6.4-7.5 (m,9H), 6.23 (s,1H), 3.27 (s,3H), 3.2 (s,3H), 2.08 (s,3H).

reactant | 2-methoxy-0-acetylmandelic acid | 0.1 mol, 22.4 g | COC1(C(C(C(=O)O)O)C=CC=C1)C(C)=O | C11H14O5
reactant | thionyl chloride | 0.4 mol, 28.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-methylaniline | 0.1 mol, 10.7 g | CNC1=CC=CC=C1 | C7H9N
reactant | triethylamine | 0.1 mol, 13.8 ml | C(C)N(CC)CC | C6H15N
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-Methyl-N-phenyl-2-methoxy-0-acetylmandelamide | 30.1 g | CN(C(C(O)C1C(C=CC=C1)(C(C)=O)OC)=O)C1=CC=CC=C1 | C18H21NO4
